US03940411
1-(1-Methyl-5-nitro-2-imidazolecarboximidoyl)-3-thiosemicarbazide (0.3 g.) is heated with 7 ml. of 6N hydrochloric acid for 15 minutes. The resulting solution is cooled and diluted with water. The solid is filtered, washed with water and dried affording 2-(2-amino-1,3,4-thiadiazol-5-yl)-1-methyl-5-nitroimidazole, melting point 266°-8°.

reactant | 1-(1-Methyl-5-nitro-2-imidazolecarboximidoyl)-3-thiosemicarbazide | 0.3 g | CN1C(=NC=C1[N+](=O)[O-])C(=N)NNC(=S)N | C6H9N7O2S
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water | O | H2O
product | 2-(2-amino-1,3,4-thiadiazol-5-yl)-1-methyl-5-nitroimidazole | NC=1SC(=NN1)C=1N(C(=CN1)[N+](=O)[O-])C | C6H6N6O2S
